US07307087B2
A mixture of 3-chloro-5-methoxypyridine (40.0 g, 0.279 mol), piperazine (48.0 g, 0.557 mol), potassium-tert-butoxide (62.5 g, 0.557 mol) and tetrakis-(triphenylphosphine)palladium(0) (1.6 g, 1.39 mmol) was refluxed for 2 hours. The workup procedure was performed according to method A. 1-(5-Methoxy-3-pyridyl)piperazine fumaric acid salt was isolated as intermediate product. Yield 22.6 g (26%). A mixture of 1-(5-methoxy-3-pyridyl)-piperazine fumaric acid salt (23.1 g, 74.7 mmol), aqueous sodium hydrogen carbonate (224 ml, 1 M), di-tert-butyldicarbonate (16.3 g, 74.7 mmol) and dichloromethane (200 ml) was stirred at room temperature for 1 hour. The phases were separated. The organic phase gave 4-tert-butoxycarbonyl-1-(5-methoxy-3-pyridyl)-piperazine in quantitative yield. N-Bromosuccinimide (1.82 g, 10.2 mmol) was added to a mixture of 4-tert-butoxycarbonyl-1-(5-methoxy-3-pyridyl)-piperazine (3.0 g, 10.2 mmol) and acetonitrile (50 ml) at 0° C. The reaction was allowed to reach room temperature and was stirred for 2 hours. Aqueous sodium hydroxide (100 ml, 4 M) was added followed by extraction twice with ethyl acetate (2×100 ml). Chromatography on silica gel with ethyl acetate:petroleum (1:3) gave 4-tert-butoxycarbonyl-1-(6-bromo-5-methoxy-3-pyridyl)-piperazine as free base. Yield 2.6 g, 68%. This compound (2.32 g, 6.23 mmol) was deprotected by stirring with a mixture of trifluoroacetic acid (4.8 ml) and dichloromethane (30 ml) for 6 hours. The mixture was evaporated, and aqueous sodium hydroxide (100 ml, 1 M) was added. The mixture was extracted three times with ethyl acetate (3×100) and gave the title compound as the free base. The corresponding salt was obtained by addition of a diethyl ether and methanol mixture (9:1) saturated with fumaric acid in quantitative yield. Mp 202-218° C.

reactant | N-Bromosuccinimide | 10.2 mmol, 1.82 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 4-tert-butoxycarbonyl-1-(5-methoxy-3-pyridyl)-piperazine | 10.2 mmol, 3.0 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC=C(C1)OC | C15H23N3O3
reactant | sodium hydroxide | 4 M, 100 ml | [OH-].[Na+]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 4-tert-butoxycarbonyl-1-(6-bromo-5-methoxy-3-pyridyl)-piperazine | C(C)(C)(C)OC(=O)N1CCN(CC1)C=1C=NC(=C(C1)OC)Br | C15H22BrN3O3
